US04293557
15 g of 3-(1-piperidinylmethyl)phenol was dissolved in 80 ml of dry dimethylformamide. The solution was gradually added dropwise to a suspension of 3.14 g of 60% sodium hydride in 30 ml of dry dimethylformamide with stirring under ice cooling. After the addition, the mixture was stirred at room temperature for 20 minutes, and 21 g of N-bromopropylphthalimide was added. The mixture was reacted at room temperature for 1 hour, and ice water was added. The mixture was extracted with chloroform, washed with water and dried over anhydrous magnesium sulfate. Distilling off the solvent afforded 28.5 g of N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]phthalamide as an oil.

reactant | 3-(1-piperidinylmethyl)phenol | 15 g | N1(CCCCC1)CC=1C=C(C=CC1)O | C12H17NO
reactant | sodium hydride | 3.14 g | [H-].[Na+]
reactant | N-bromopropylphthalimide | 21 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]phthalamide | 28.5 g | N1(CCCCC1)CC=1C=C(OCCCNC(C=2C(C(=O)N)=CC=CC2)=O)C=CC1 | C23H29N3O3
